US04505860
50 g of dihydrocarvone, 1.5 g of triphenylphosphene and 0.013 g of rhodium 2-ethylhexanoate are reacted as described in Example 1 in 200 ml of toluene at 150° C. and under 280 bar with a 1:1 mixture of hydrogen and carbon monoxide. The distillative working-up yields 51.5 g of 3-(4-methyl-3-oxocyclohexyl)-butyraldehyde (boiling point=98°-100° C./0.1 mbar, 86% of theory).

reactant | dihydrocarvone | 50 g | C[C@@H]1CC[C@H](CC1=O)C(=C)C | C10H16O
reactant | hydrogen | [H][H] | H2
reactant | carbon monoxide | [C]=O | CO
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
catalyst | rhodium 2-ethylhexanoate | 0.013 g | C(C)C(C(=O)[O-])CCCC.[Rh+3].C(C)C(C(=O)[O-])CCCC.C(C)C(C(=O)[O-])CCCC
product | 3-(4-methyl-3-oxocyclohexyl)-butyraldehyde | 51.5 g, 86% | CC1C(CC(CC1)C(CC=O)C)=O | C11H18O2
